US04097504
Step B: Preparation of Ethyl 8-Acetyl-12-acetoxy-13,13-dimethylheptadecanoate
This compound is prepared as described in Example 1, Step C except that ethyl 8-acetyl-8-tertbutoxycarbonyl-12-acetoxy-13,13-dimethylheptadecanoate is substituted for ethyl 8-acetyl-8-tert-butoxycarbonyl-12-acetoxyheptadecanoate. The product, a viscous yellowish oil, is purified by chromatography on silica gel with chloroform as eluant.

reactant | ethyl 8-acetyl-8-tertbutoxycarbonyl-12-acetoxy-13,13-dimethylheptadecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)(CCCC(C(CCCC)(C)C)OC(C)=O)C(=O)OC(C)(C)C | C30H54O7
reactant | ethyl 8-acetyl-8-tert-butoxycarbonyl-12-acetoxyheptadecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)(CCCC(CCCCC)OC(C)=O)C(=O)OC(C)(C)C | C28H50O7
product | Ethyl 8-Acetyl-12-acetoxy-13,13-dimethylheptadecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC(C(CCCC)(C)C)OC(C)=O | C25H46O5
